US08975254B2
(S)-ethyl 4-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazole-2-carboxylate was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (400 mg, 1.165 mmol) and 2,4-thiazoledicarboxylic acid, 2-ethyl ester 234 mg, 1.165 mmol). The product was purified by Flash-chromatography. Yield 16.1%. 1H-NMR (400 MHz; CDCl3): δ 1.31 (d, 3H), 1.44 (t, 3H), 2.55 (s, 3H), 4.31-4-46 (m, 2H), 4.50 (q, 2H), 4.56-4.68 (m, 1H), 6.42 (d, 1H), 7.50 (d, 1H), 7.54-7.61 (m, 2H), 7.80 (bd, 1H), 8.34 (s, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 1.165 mmol, 400 mg | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)C | C14H15ClN4
reactant | 2,4-thiazoledicarboxylic acid, 2-ethyl ester | 1.165 mmol, 234 mg | S1C(=NC(=C1)C(=O)[O-])C(=O)OCC
product | (S)-ethyl 4-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazole-2-carboxylate | Yield 16.1% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(=O)OCC)C | C21H20ClN5O3S
